US04672066
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid was allowed to react with 4-(3-pyridinyloxy)butyl amine according to procedure A and the product was purified by HPLC to give 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(3-pyridinyloxy)butyl]hexanamide, the title compound, mp 50°-53° (from ethyl acetate) in 73% yield.

reactant | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)O)C=C1)CCC)O | C17H24O5
reactant | 4-(3-pyridinyloxy)butyl amine | N1=CC(=CC=C1)OCCCCN | C9H14N2O
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(3-pyridinyloxy)butyl]hexanamide | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)NCCCCOC=2C=NC=CC2)C=C1)CCC)O | C26H36N2O5
